US06586429B2
To a stirring suspension of (R)-1-(5-acetoxyhexyl)-8-bromo-3-methylxanthine (5.10 g, 13.2 mmol), triphenylphosphine (5.24 g, 20.0 mmol) and 3-(tert-butoxycarbonylamino)-1-propanol (3.2 g, 20.0 mmol) in anhydrous 1,2-dichloroethane (100 ml) at room temperature was added diethylazodicarboxylate (3.48 g, 20.0 mmol) dropwise. The mixture was stirred at room temperature overnight and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate-hexane (1:1) to provide (R)-1-(5-acetoxyhexyl)-8-bromo-7-(2-(N-tert-butoxycarbonylamino)ethyl)-3-methylxanthine (6.10 g, 85% yield) as a beige oil.

reactant | (R)-1-(5-acetoxyhexyl)-8-bromo-3-methylxanthine | 13.2 mmol, 5.10 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)Br)C)C | C14H19BrN4O4
reactant | triphenylphosphine | 20.0 mmol, 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(tert-butoxycarbonylamino)-1-propanol | 20.0 mmol, 3.2 g | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
reactant | diethylazodicarboxylate | 20.0 mmol, 3.48 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | (R)-1-(5-acetoxyhexyl)-8-bromo-7-(2-(N-tert-butoxycarbonylamino)ethyl)-3-methylxanthine | 6.10 g, 85% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CCNC(=O)OC(C)(C)C)Br)C)C | C21H32BrN5O6
